US04956359
3-(4-Chlorophenoxy)-N-methyl-1-azetidinecarboxamide
A stirred solution of 5 g (0.02 mole) of 3-(4-chlorophenoxy)-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was treated with 4.7 g (0.06 mole) of 40% aqueous monomethylamine. After stirring for 18 hr, the reaction mixture was diluted with 200 ml of water and the solid which separated was collected by filtration, 5.7 g. Recrystallization from benzene-ligroin was accomplished by adding magnesium sulfate to absorb the water which separated from the wet product. After filtering and cooling the hot filtrate, the precipitated solid was collected by filtration to yield 4.1 g (85.2%) of white crystals, m.p. 144°-145° C.

reactant | 3-(4-chlorophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5 g | ClC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9Cl2NO2
reactant | monomethylamine | 0.06 mole, 4.7 g | CN | CH5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-(4-Chlorophenoxy)-N-methyl-1-azetidinecarboxamide | 4.1 g, 85.2% | ClC1=CC=C(OC2CN(C2)C(=O)NC)C=C1 | C11H13ClN2O2
